US05817671
5-(N-[hexanoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.01 gm (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.0077 mL (0.048 mMol) hexanoyl chloride, 0.012 gm (84%) of the title compound were prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.044 mMol, 0.01 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | hexanoyl chloride | 0.048 mMol, 0.0077 mL | C(CCCCC)(=O)Cl | C6H11ClO
product | 5-(N-[hexanoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.012 gm, 84% | C(CCCCC)(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C19H28N4O
